US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (7.2 g) and 3,3-ethylenedioxy-3-phenylpropyl bromide (6.0 g) were reacted and treated in the same manner as in Example 172 to give 9.2 g of 4-amino-5-chloro-N-((1-(3,3-ethylenedioxy-3-phenylpropyl)piperidin-4-yl)methyl)-2-methoxybenzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 7.2 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 3,3-ethylenedioxy-3-phenylpropyl bromide | 6.0 g | C1OC(CCBr)(C2=CC=CC=C2)OC1 | C11H13BrO2
product | 4-amino-5-chloro-N-((1-(3,3-ethylenedioxy-3-phenylpropyl)piperidin-4-yl)methyl)-2-methoxybenzamide | 9.2 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCC2(C3=CC=CC=C3)OCCO2)C=C1Cl)OC | C25H32ClN3O4
